US07538931B2
1-Ethyl-N-methyl-N-pyridin-2-yl-1H-benzimidazol-2-amine
To a flask were added 11.0 g of 2-bromo-1-ethyl-1H-benzimidazole, 0.48 2-(methylamino)pyridine, 0.64 g of sodium tert-butoxide, and 25 ml toluene. The mixture was purged thoroughly with nitrogen and 250 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene and 64 mg of palladium acetate were added. The reaction mixture was heated to 90 C for 16 hours, and then cooled to 22 C. After quenching with 50 ml water, the product was extracted with 20 ml ethyl acetate. The product was extracted with 30 ml of 1M hydrochloric acid, and then basified with 3M sodium hydroxide. Following extraction with 20 ml ethyl acetate, the product was purified by silica gel chromatography using a gradient from 40% ethyl acetate in hexane to 70% ethyl acetate in hexane, resulting in 0.6 g of a yellow oil which crystallized on standing. The product was recrystallized from a mixture of 5 ml hexane with 1.5 ml 2-propanol. After filtration and drying of the product, a 0.44 g of a yellow solid was obtained.

reactant | 2-bromo-1-ethyl-1H-benzimidazole | 11.0 g | BrC1=NC2=C(N1CC)C=CC=C2 | C9H9BrN2
reactant | 2-(methylamino)pyridine | CNC1=NC=CC=C1 | C6H8N2
reactant | sodium tert-butoxide | 0.64 g | CC(C)([O-])C.[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-N-methyl-N-pyridin-2-yl-1H-benzimidazol-2-amine | 0.6 g | C(C)N1C(=NC2=C1C=CC=C2)N(C2=NC=CC=C2)C | C15H16N4
